US05703110
2-(4-Formylphenyl)benzonitrile
A mixture of 2-(4-bromomethylphenyl)benzonitrile (12 g) and sodium bicarbonate (26 g) in dimethyl sulfoxide (150 ml) was heated at 120° C. for 5 hours with stirring. After addition of water, the mixture was extracted with ethyl acetate. The extract was washed with water, dried and concentrated to dryness. The residue was purified by column chromatography on silica gel to give crystals. Recrystallization from chloroform-isopropyl ether gave colorless needles (5.77 g, 63%).

reactant | 2-(4-bromomethylphenyl)benzonitrile | 12 g | BrCC1=CC=C(C=C1)C1=C(C#N)C=CC=C1 | C14H10BrN
reactant | sodium bicarbonate | 26 g | C([O-])(O)=O.[Na+]
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 150 ml | CS(=O)C | C2H6OS
product | 2-(4-Formylphenyl)benzonitrile | 5.77 g, 63% | C(=O)C1=CC=C(C=C1)C1=C(C#N)C=CC=C1 | C14H9NO
